US04291171
Carefully controlled reaction conditions are required because the addition of a nucleophile (nitro- or halonitroalkyl ion) to a methylenemalonate ester gives the salt of an alkylmalonate which is itself capable of undergoing further nucleophilic reactions. Nitroform, a strong acid, reacts with diethyl methylenemalonate in aqueous methanol at ambient temperature, without a base as catalyst, to produce diethyl 2,2,2-trinitroethylmalonate. The same conditions may also be used to produce dimethyl 2,2,2-trinitroethylmalonate. The reaction of 1,1-dinitroethane with methylenemalonates does not take place under these conditions, presumably because the nitro compound is not sufficiently ionized. However, the addition of triethylamine to an ether solution of 1,1-dinitroethane and dimethyl methlenemalonate at 0° C. resulted in a 72% yield of dimethyl 2,2-dinitropropylmalonate. In the same manner, diethyl 2,2-dinitropropylmalonate may be prepared. Finally, the addition fluorodinitromethane to methylenemalonates in ether solution in the presence of catalytic amounts of pyridine produces good yields of dimethyl and diethyl 2-fluoro-2,2-dinitroethylmalonates.

reactant | 1,1-dinitroethane | [N+](=O)([O-])C(C)[N+](=O)[O-] | C2H4N2O4
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | dimethyl methlenemalonate | C=C(C(=O)OC)C(=O)OC | C6H8O4
solvent | ether | CCOCC | C4H10O
product | dimethyl 2,2-dinitropropylmalonate | 72% yield | [N+](=O)([O-])C(CC(C(=O)OC)C(=O)OC)(C)[N+](=O)[O-] | C8H12N2O8
